US05237070
A mixture of 2.0 g of 4-(2,6-di-tertiary-butylcyclohexadienon-4-ylideneamino)cinnamic acid, 100 ml of methanol, 0.5 ml of concentrated hydrochloric acid and 2 g of zinc powder was stirred for ten minutes. The mixture was filtered and the filtrate was evaporated to give a yellow gummy solid. This material was recrystallized from a mixture of 15 ml of benzene, 4 ml of hexane and 2 ml of cyclohexane to give 0.4 g of yellow granular 4-(3,5-di-tertiary-butyl-4-hydroxyanilino)cinnamic acid, m.p. 199°-200° C. Analysis: Calculated for C23H29NO3 2/3C6H6 : %C, 7.4; %H, 7.9; %N, 3.3; Found: %C, 77.2; %H, 7.8; %N, 3.3.

reactant | 4-(2,6-di-tertiary-butylcyclohexadienon-4-ylideneamino)cinnamic acid | 2.0 g | C(C)(C)(C)C=1C(C(=CC(C1)=NC1=CC=C(C=CC(=O)O)C=C1)C(C)(C)C)=O | C23H27NO3
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
catalyst | zinc | 2 g | [Zn] | Zn
solvent | methanol | 100 ml | CO | CH4O
product | 4-(3,5-di-tertiary-butyl-4-hydroxyanilino)cinnamic acid | 0.4 g | C(C)(C)(C)C=1C=C(NC2=CC=C(C=CC(=O)O)C=C2)C=C(C1O)C(C)(C)C | C23H29NO3
